US08309550B2
3-(4-(1-Methyl-1H-indol-3-yl)pyrimidin-2-ylamino)phenol (Compound 1)
To a mixture of (E)-3-(dimethylamino)-1-(1-methyl-1H-indol-3-yl)prop-2-en-1-one (1.0 mmol, 0.21 g) in MeCN (3.5 mL) was added 1.0 mmol 1-(3-hydroxyphenyl)guanidine hydrogen chloride salt in the presence of NaOH (1.0 mmol). The mixture was irradiated at 150° C. for 20 minutes in microwave. The mixture was purified by chromatography using EtOAc/PE (1:1, v/v) to elute the titled product as a off-white solid. 1H-NMR (DMSO-d6) δ: 3.89 (s, 3H, CH3), 6.38 (m 1H, Ph-H), 7.07 (m, 1H, Ph-H), 7.19 (d, 1H, J=5.6 Hz, Pyrimidin-H), 7.25 (m, 1H, Ar—H), 7.38 (s, 1H, Ph-H), 7.53 (d, 1H, J=8.0 Hz, Ph-H), 8.32 (m, 2H, Ar—H and Pyrimidin-H), 8.64 (d, 1H, J=8.0 Hz, OH), 9.23 (s, 1H, Ar—H), 9.27 (s, 1H, Ar—H). MS (ESI+) m/z 317.1311 (M+H)+

reactant | (E)-3-(dimethylamino)-1-(1-methyl-1H-indol-3-yl)prop-2-en-1-one | 1.0 mmol, 0.21 g | CN(/C=C/C(=O)C1=CN(C2=CC=CC=C12)C)C | C14H16N2O
reactant | 1-(3-hydroxyphenyl)guanidine hydrogen chloride salt | 1.0 mmol | Cl.OC=1C=C(C=CC1)NC(=N)N
reactant | NaOH | 1.0 mmol | [OH-].[Na+]
solvent | MeCN | 3.5 mL | CC#N | C2H3N
product | 3-(4-(1-Methyl-1H-indol-3-yl)pyrimidin-2-ylamino)phenol | CN1C=C(C2=CC=CC=C12)C1=NC(=NC=C1)NC=1C=C(C=CC1)O | C19H16N4O
